Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bee Sting Kit / Latex
 
Attending: ___.
 
Chief Complaint:
cough, fatigue
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yo F with a history of DMII (non-insulin dependent) and 
asthma who presented to ___ clinic on the day of admission with 
productive cough, green sputum,and SOB x 2 week. She also 
reports extreme fatigue to the point of not being able to walk, 
poor PO intake / post-tussive emesis, and sweats and chills. She 
denies fevers or chest pain. She has been taking pro-Air every 
___ however has not had relief. She was previously taking 
Flovent, but not recently. She is a non-smoker. She does not 
check her peak flows at home. She was seen in the ED ___ for 
chest pain, for which she was ruled out for ACS. In clinic on 
the day of admission, she was noted to be dyspneic, tachycardic, 
weak, coughing, and was referred to the ED for asthma 
exacerbation ___ viral URI vs pna.  
 
In the ED, initial vital signs were 99 98 142/85 18 95% 2l. Labs 
were notable for leukocytosis with left shift, lactate 1.6 and 
electrolytes within normal limits. Troponin was <0.01. CXR was 
notable for a left lower lobe retrocardiac opacity concerning 
for pneumonia. She received albuterol and ipratropium nebs, 
levofloxacin 750mg, and was admitted for further treatment of 
her respiratory symptoms, IV hydration, and other medical 
management. Vitals prior to transfer were 98.2 87 134/87 18 98%. 
 
 
On the floor, patient was well, with freuent productive coughs 
but no respiratory distress.  
 
Past Medical History:
- Hypercholesterolemia.  
- Hypertension  
- Asthma.  
- Glaucoma.  
- Status post lumbar laminectomy in ___.  
- Status post right total hip replacement.  
- Status post left total hip replacement.  
- Status post total abdominal hysterectomy, bilateral 
salpingo-oophorectomy. 
 
Social History:
___
Family History:
Positive for diabetes and hypertension 
 
Physical Exam:
ADMISSION:
Vitals- 98.3, 140/84, 92, 18, 97RA  
General- Alert, oriented, no acute distress  
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- rhonci at the left base, clear in other auscultated zones 
 
CV- Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen- soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro- CNs2-12 intact, motor function grossly normal  

DISCHARGE:
Vitals- 98.5 88 134/84 18 100%RA 
General- Alert, oriented, no acute distress  
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- rhonci at the left base, clear otherwise, no wheezes  
CV- Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen- soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro- CNs2-12 intact, motor function grossly normal  

 
Pertinent Results:
___ 05:19PM   LACTATE-1.6
___ 05:00PM   GLUCOSE-104* UREA N-16 CREAT-0.8 SODIUM-135 
POTASSIUM-3.3 CHLORIDE-98 TOTAL CO2-26 ANION GAP-14
___ 05:00PM   cTropnT-<0.01
___ 05:00PM   WBC-12.8*# RBC-4.06* HGB-12.4 HCT-37.3 MCV-92 
MCH-30.4 MCHC-33.2 RDW-12.7
___ 05:00PM   NEUTS-88.9* LYMPHS-7.6* MONOS-3.0 EOS-0.1 
BASOS-0.3
___ 05:00PM   PLT COUNT-165
___ 05:00PM   ___ PTT-23.4* ___
 
Brief Hospital Course:
# Pneumonia: CXR showed a LLL pneumonia. Was never hypoxic and 
looked well with no dyspnea, no severe comorbidities. CTA in ___ showed numerous pulmonary nodules measuring up to 5mm. 
Patient was started on levofloxaxin for a total 5 day course 
through ___, with standing albuterol/ipratropium and continued 
fluticasone. She was influenza negative. She came in with poor 
PO intake but was observed overnight to have an improved 
appetite with no nausea.

Chronic issues---
# Gluacoma: 
- continued home eye drops
# DM: not on metformin per patient's desire and conversation 
with PCP. Diet controlled and increased exercise regimen. 
Relative hyperglycemia at this time likely related to acute 
infection.  
-continued diabetic diet  
# s/p bilateral hip replacement:  
- continued lidoderm patches  
# HLD:  
- continued atovastatin 80mg PO  
# HTN  
- continued HCTZ 25 QOD  
- continued verapamil ER 180 mg   
# GERD:  
- continued omeprazole 20 mg  
# Bladder spasms:  
- continued oxybutynin 5 mg    
# Lactose intolerance:  
- continued lactae 3000U before diary  
- calcium 200 mg BID  
- continued vit D3 600 mg 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Calcium Carbonate 500 mg PO TID:PRN indigestion 
2. Albuterol Inhaler ___ PUFF IH Q4H:PRN wheeze 
3. Fluticasone Propionate 110mcg 2 PUFF IH BID 
4. Hydrochlorothiazide 25 mg PO DAILY 
hold for SBP<100 
5. Lidocaine 5% Patch 1 PTCH TD DAILY 
to painful areas 
6. Omeprazole 20 mg PO DAILY 
7. Oxybutynin 5 mg PO Q 24H 
8. Verapamil SR 180 mg PO Q24H 
hold for SBP<100 
9. Aspirin 81 mg PO DAILY 
10. Lactaid *NF* (lactase) 3,000 unit Oral TID prior to meals 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Fluticasone Propionate 110mcg 2 PUFF IH BID 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Lidocaine 5% Patch 1 PTCH TD DAILY 
5. Omeprazole 20 mg PO DAILY 
6. Oxybutynin 5 mg PO Q 24H 
7. Verapamil SR 180 mg PO Q24H 
8. Albuterol Inhaler ___ PUFF IH Q4H:PRN wheeze 
9. Calcium Carbonate 500 mg PO TID:PRN indigestion 
10. Lactaid *NF* (lactase) 3,000 unit Oral TID prior to meals 
11. Benzonatate 100 mg PO TID 
RX *benzonatate 100 mg 1 capsule(s) by mouth three times a day 
Disp #*15 Capsule Refills:*0
12. Levofloxacin 500 mg PO Q24H 
RX *levofloxacin [Levaquin] 500 mg 1 tablet(s) by mouth daily 
Disp #*3 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Pneumonia

Secondary diagnosis:
Asthma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,
It was a pleasure to take care of you at ___. You were 
diagnosed with pneumonia in your left lower lobe of your lung, 
and were started on antibiotics. You were observed overnight and 
improved in the morning. Please finish your entire course of 
antibiotics, and you can use your albuterol and Flovent at home 
as well to breathe better. You can use tessalon perles for cough 
as needed.

Please return if you develop any:
- worsening shortness of breath
- inability to eat
- high fever/chills
- chest pain
 
Followup Instructions:
___